US07638629B2
a) Methyl 2-[4-(trifluoromethyl)phenyl]isonicotinate
Methyl 2-chloroisonicotinate (427 mg), 4-(trifluoromethyl)phenylboronic acid (474 mg), potassium phosphate (800 mg), 1,1-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (102 mg), in PhMe (5 ml) were placed in a microwave tube and the contents were heated in the microwave oven for 20 min at 150° C. The cooled mixture was filtered through Hyflo® to remove inorganic material, the Hyflo® was washed with EtOAc and the combined organic extracts were dispersed between H2O and EtOAc. The organic extracts were washed with brine, dried (MgSO4) and evaporated. The crude oil was purified by chromatography on silica using 10-25% EtOAc in hexane to yield the product as a crystalline solid (560 mg, 85%). 1H NMR (400 MHz, CDCl3) δ: 4.01 (3H, s), 7.76 (2H, d, J 8.3), 7.84 (1H, dd, J 1.4, 4.9), 8.18 (2H, d, J 8.2), 8.33 (1H, t, J 1.1), 8.87 (1H, dd, J 0.6, 4.8).

reactant | Methyl 2-chloroisonicotinate | 427 mg | ClC=1C=C(C(=O)OC)C=CN1 | C7H6ClNO2
reactant | 4-(trifluoromethyl)phenylboronic acid | 474 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium phosphate | 800 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | PhMe | 5 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-[4-(trifluoromethyl)phenyl]isonicotinate | 560 mg, 85% | FC(C1=CC=C(C=C1)C=1C=C(C(=O)OC)C=CN1)(F)F | C14H10F3NO2
